*Custom Compiler Version N-2017.12-SP1-2
*Mon Apr 27 23:45:55 2026

*.SCALE METER
*.LDD
.GLOBAL gnd! vdd!
********************************************************************************
* Library          : DOAN
* Cell             : NAND
* View             : schematic
* View Search List : auCdl schematic symbol
* View Stop List   : auCdl
********************************************************************************
.subckt NAND A B Y
*.PININFO A:I B:I Y:O
MM8 Y A vdd! vdd! P w=1.8u l=0.2u nf=1 m=1
MM9 Y B vdd! vdd! P w=1.8u l=0.2u nf=1 m=1
MM11 net2 B gnd! gnd! N w=0.72u l=0.2u nf=1 m=1
MM10 Y A net2 net2 N w=0.72u l=0.2u nf=1 m=1
.ends NAND


